US07012075B2
To a 80° C. solution of N,N′-bis-(1-(S)-carbomethoxy-3-methylbutyl)-3,3′dithiodipropionamide (104 g, 424 mmol) in toluene (1 L), was added a stream of chlorine gas (194 g, 1.47 mol) over 15 h. The solution was cooled and washed with water (2×1 L), and brine and dried over MgSO4. Purification by flash chromatography (50% ethyl acetate/hexanes) provided methyl (2S)-4-methyl-2-(3-oxoisothiazol-2(3H)-yl)pentanoate.

reactant | N,N′-bis-(1-(S)-carbomethoxy-3-methylbutyl)-3,3′dithiodipropionamide | 424 mmol, 104 g | C(=O)(OC)[C@H](CC(C)C)NC(CCSSCCC(=O)N[C@@H](CC(C)C)C(=O)OC)=O | C20H36N2O6S2
reactant | chlorine | 1.47 mol, 194 g | ClCl | Cl2
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | methyl (2S)-4-methyl-2-(3-oxoisothiazol-2(3H)-yl)pentanoate | CC(C[C@@H](C(=O)OC)N1SC=CC1=O)C | C10H15NO3S
